US07585886B2
In accordance with the technique of Ling et al. (“Tetrahedron”, 2001, vol. 57,p. 6579-6588) and the method of International Patent Publication WO 2000/59502, a 20 ml dichloromethane solution of 7.3 ml of trifluoroacetic acid anhydride was added under ice-cooling to a mixture of (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine synthesized from (4S)-4-benzyl-3-[(2E)-3-phenylprop-2-enoyl]-1,3-oxazolidin-2-one, 21.6 ml of triethylamine and 70 ml of dichloromethane, and stirred at room temperature for 4Hours. The reaction solution was concentrated under a reduced pressure, and the residue was mixed with water, extracted with ethyl acetate and washed with water and saturated brine in that order. The organic layer was dried with anhydrous sodium sulfate and concentrated under a reduced pressure. The thus obtained residue was purified by a silica gel column chromatography (chloroform) to obtain 11.9 g of (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenyl-1-(trifluoroacetyl)pyrrolidine as a yellow amorphous substance. FP: 388.

reactant | trifluoroacetic acid anhydride | 7.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine | [Si](C)(C)(C(C)(C)C)OC[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C17H29NOSi
reactant | (4S)-4-benzyl-3-[(2E)-3-phenylprop-2-enoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=CC=CC=C1)=O | C19H17NO3
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | triethylamine | 21.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenyl-1-(trifluoroacetyl)pyrrolidine | 11.9 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(C(F)(F)F)=O | C19H28F3NO2Si
